US05994366
Over a period of 30 minutes a solution of 130 g of 2-(4-chlorobenzoyl)benzoic acid in 300 ml of anhydrous tetrahydrofuran was added drop-wise under nitrogen to 900 ml of a stirred 3M solution of methylmagnesium chloride in anhydrous tetrahydrofuran. After the addition the reaction mixture was kept at reflux temperature for 1 hour. Afterwards it was cooled in an ice bath to room temperature and 1 L of an aqueous 2N sulfuric acid solution was added slowly, followed by 600 ml of toluene. The organic layer was separated and washed with brine, dried and evaporated in vacuo. Bulb to bulb destination (0.1 mm Hg/160° C.) afforded 60 g of 3-(4-chlorophenyl)-3-methyl-1(3H)-isobenzofuranone as a yellow oil. M.S. (C.I.) (M/Z): 260 [M+H]+.

reactant | 2-(4-chlorobenzoyl)benzoic acid | 130 g | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(4-chlorophenyl)-3-methyl-1(3H)-isobenzofuranone | 60 g | ClC1=CC=C(C=C1)C1(OC(C2=CC=CC=C12)=O)C | C15H11ClO2
